US09163012B2
To a stirred solution of 5-methoxy-2-(pyrrolidin-3-yl)pyrimidine (210 mg, 1.17 mmol) in dry CH2Cl2 (4 mL) was added Et3N (354.5 mg, 3.51 mmol) and (Boc)2O (529 mg, 2.34 mmol) dropwise at 0° C. The mixture was stirred at rt for 2 h. TLC showed the disappearance of starting material. The reaction mixture was washed with water (10 mL×3), and the combined organic layer was concentrated to give crude product, which was purified by prep TLC to give tert-butyl 3-(5-methoxypyrimidin-2-yl)pyrrolidine-1-carboxylate (150 mg, 46%) as a solid.

reactant | 5-methoxy-2-(pyrrolidin-3-yl)pyrimidine | 1.17 mmol, 210 mg | COC=1C=NC(=NC1)C1CNCC1 | C9H13N3O
reactant | Et3N | 3.51 mmol, 354.5 mg | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 2.34 mmol, 529 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(5-methoxypyrimidin-2-yl)pyrrolidine-1-carboxylate | 150 mg, 46% | COC=1C=NC(=NC1)C1CN(CC1)C(=O)OC(C)(C)C | C14H21N3O3
